US07635711B2
Synthesis of 2,4,6-Trifluoro-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]benzenesulfonamide
A mixture of 100 mg (0.44 mmol) of 2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethylamine and 101 mg (0.44 mmol) of 2,4,6-trifluorobenzenesulfonyl chloride in 8 mL of pyridine was stirred at room temperature for 2 hours, and warmed at 70° C. for 18 hours. The mixture was then cooled to room temperature and diluted with 1 N aqueous HCl until acidic and extracted with ethyl acetate. The combined organic layers was washed with 1 N aqueous HCl, saturated aqueous sodium bicarbonate solution, and brine, dried over sodium sulfate, decanted, and concentrated in vacuo. The crude material was crystallized from ether-hexanes to afford 40 mg (21%) of the title compound as a colorless powder. MS: m/z 423 (M+1).

reactant | 2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethylamine | 0.44 mmol, 100 mg | FC(C(CC1=CNC2=CC=CC=C12)N)(F)F | C11H11F3N2
reactant | 2,4,6-trifluorobenzenesulfonyl chloride | 0.44 mmol, 101 mg | FC1=C(C(=CC(=C1)F)F)S(=O)(=O)Cl | C6H2ClF3O2S
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
solvent | HCl | 1 N | Cl | ClH
product | 2,4,6-Trifluoro-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]benzenesulfonamide | 40 mg, 21% | FC1=C(C(=CC(=C1)F)F)S(=O)(=O)NC(C(F)(F)F)CC1=CNC2=CC=CC=C12 | C17H12F6N2O2S
